US04004011
6-methyl-8-(2-methoxy-5-pyridylamino)ergoline
A solution of 35.6 g of 6-methyl-8-oxo-ergoline in 1.4 liters of glacial acetic acid is slowly added dropwise to 35 g of 10% palladium on active charcoal and 18.6 g of 2-methoxy-5-aminopyridine in 400 cc of glacial acetic acid with simultaneous hydrogenation under normal conditions. The addition is effected within about 7 hours. After the hydrogen take up is complete, the catalyst is filtered off, the filtrate is concentrated in a vacuum and the resulting residue is taken up in methylene chloride (+15% of isopropanol) and washed with ice-cooled ammonia and water. The residue obtained after drying the combined organic phases and concentrating by evaporation, is purified and separated into the isomers by chromatography on an 80-fold quantity of silica gel with methylene chloride and the addition of increasing amounts of methanol.

reactant | 6-methyl-8-oxo-ergoline | 35.6 g | CN1CC(C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)=O | C15H16N2O
reactant | charcoal | C | CH4
reactant | 2-methoxy-5-aminopyridine | 18.6 g | COC1=NC=C(C=C1)N | C6H8N2O
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 1.4 liters | C(C)(=O)O | C2H4O2
solvent | acetic acid | 400 cc | C(C)(=O)O | C2H4O2
catalyst | palladium | 35 g | [Pd] | Pd
product | 6-methyl-8-(2-methoxy-5-pyridylamino)ergoline | CN1CC(C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)NC=3C=CC(=NC3)OC | C21H24N4O
